US07737166B2
7-Fluoro-2-(furan-2-yl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-105)
4-Amino-6-fluoro-5-hydroxy-2-methylbiphenyl-3-carbonitrile (I-41) (100 mg, 0.41 mmol) was dissolved in xylene (10 ml), then at room temperature, triethylamine (70 μl), 2-furoyl chloride (49 μl, 0.50 mmol), pyridinium paratoluenesulfonate (31 mg, 0.12 mmol) were added. Next, this mixture liquid was stirred at 145° C. for 108 hours, then cooled to room temperature. This reaction liquid was fractionated with ethyl acetate and an aqueous saturated sodium hydrogencarbonate solution. The aqueous layer was separated, and this was extracted twice with ethyl acetate. The organic layers were combined, this was washed with saturated brine, dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away, the resulting residue was purified by middle-pressure liquid chromatography (eluent, hexane:ethyl acetate=4:1), and the entitled compound (40 mg, 31%) was obtained as a white solid.

reactant | 4-Amino-6-fluoro-5-hydroxy-2-methylbiphenyl-3-carbonitrile | 0.41 mmol, 100 mg | NC1=C(C(=C(C(=C1O)F)C1=CC=CC=C1)C)C#N | C14H11FN2O
reactant | 2-furoyl chloride | 0.50 mmol, 49 μl | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | pyridinium paratoluenesulfonate | 0.12 mmol, 31 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 70 μl | C(C)N(CC)CC | C6H15N
product | 7-Fluoro-2-(furan-2-yl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 40 mg, 31% | FC=1C(=C(C(=C2N=C(OC21)C=2OC=CC2)C#N)C)C2=CC=CC=C2 | C19H11FN2O2
